US07977331B1
To a suspension of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (2.35 g, 6.98 mmol) obtained in the same manner as in the method described in WO03/010140 and 4-fluoro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylamine (1.99 g, 8.38 mmol) in 1,2-dimethoxyethane (24 ml) and water (12 ml) were added sodium hydrogen carbonate (2.00 g, 24.0 mmol) and tetrakis(triphenylphosphine)palladium (400 mg, 0.34 mmol), and the mixture was heated under reflux for 14 hr. The mixture was allowed to cool to room temperature, and water was added to the reaction mixture. The mixture was extracted with ethyl acetate and the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1-3:1) to give methyl 2-(2-amino-5-fluorophenyl)-3-cyclohexyl-1H-indole-6-carboxylate (2.44 g, yield 95.7%).

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 6.98 mmol, 2.35 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | 4-fluoro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylamine | 8.38 mmol, 1.99 g | FC1=CC(=C(C=C1)N)B1OC(C(O1)(C)C)(C)C | C12H17BFNO2
reactant | sodium hydrogen carbonate | 24.0 mmol, 2.00 g | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 24 ml | COCCOC | C4H10O2
solvent | water | 12 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.34 mmol, 400 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(2-amino-5-fluorophenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 2.44 g, yield 95.7% | NC1=C(C=C(C=C1)F)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C22H23FN2O2
